US04680365
A mixture containing 14.8 g of 1,1,1,3,3-pentamethyldisiloxane, 10.0 g of allyl acetate (acetic acid allylester) and 0.01 g of palladium supported on activated charcoal, in which the 0.1 g refers to the total weight of the charcoal and the palladium, is heated to boiling under reflux (approximately 105° C.) for 4 hours. The 1,1,1,3,3-pentamethyl-3-acetoxydisiloxane yield is quantitative.

reactant | 1,1,1,3,3-pentamethyldisiloxane | 14.8 g | C[Si](O[SiH](C)C)(C)C | C5H16OSi2
reactant | allyl acetate | 10.0 g | C(C)(=O)OCC=C | C5H8O2
reactant | charcoal | C | CH4
catalyst | palladium | 0.01 g | [Pd] | Pd
product | 1,1,1,3,3-pentamethyl-3-acetoxydisiloxane | C[Si](O[Si](OC(C)=O)(C)C)(C)C | C7H18O3Si2
